US03947470
3-[3-(3-Diethylaminopropoxy)benzoyl]-2-phenylbenzofuran
Demethylation of 3-(3-methoxybenzoyl)-2-phenylbenzofuran followed by reaction of 3-(3-hydroxybenzoyl)-2-phenylbenzofuran with 3-diethylaminopropyl chloride as described in Example 1 gives the title compound.

reactant | 3-(3-methoxybenzoyl)-2-phenylbenzofuran | COC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC1 | C22H16O3
reactant | 3-(3-hydroxybenzoyl)-2-phenylbenzofuran | OC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC1 | C21H14O3
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 3-[3-(3-Diethylaminopropoxy)benzoyl]-2-phenylbenzofuran | C(C)N(CCCOC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC1)CC | C28H29NO3
